US04290953
To a solution of ethyl 10,11-dihydrodibenz[b,f][1,4]oxazepine-8-carboxylate (1.35 g) in a mixture of pyridine (2.5 ml) and chloroform (5 ml) was added dropwise a solution of benzoyl chloride (0.7 g) in chloroform (5 ml) over 15 minutes while stirring under ice cooling. The resulting mixture was stirred at room temperature for 3 hours, washed with a diluted sodium hydroxide aqueous solution and with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove chloroform. The residue was recrystallized from ethanol to give ethyl N-benzoyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-8-carboxylate as colorless needles.

reactant | ethyl 10,11-dihydrodibenz[b,f][1,4]oxazepine-8-carboxylate | 1.35 g | C1=CC=CC2=C1CNC1=C(O2)C=CC(=C1)C(=O)OCC | C16H15NO3
reactant | benzoyl chloride | 0.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl N-benzoyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-8-carboxylate | Yield: 75% | C(C1=CC=CC=C1)(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)C(=O)OCC | C23H19NO4
